US07723523B2
111. 2-((E)-3-Benzo[1,3]dioxol-4-yl-allanoylamino)-3-cyano-4,7-dihydro-5H-thieno[2,3-c]pyridine-6-carboxylic acid ethyl ester
The following compounds 112 to 127, 129, 130, 132 to 134, 132 to 134, 135 to 164, and 166 to 168 can be prepared starting from the appropriate starting compound selected from N-(3-cyano-4,5,6,7-tetrahydro-thieno[2,3-c]pyridin-2-yl)-3-phenyl-acrylamide, N-(3-cyano-4,5,6,7-tetrahydro-thieno[2,3-c]pyridin-2-yl)-3-(2-methoxy-phenyl)-acrylamide, N-(3-cyano-4,5,6,7-tetrahydro-thieno[2,3-c]pyridin-2-yl)-3-(2-chloro-phenyl)-acrylamide and N-(3-cyano-4,5,6,7-tetrahydro-thieno[2,3-c]pyridin-2-yl)-3-(pyridin-3-yl)-acrylamide according to general procedure EE as described later herein:

reactant | N-(3-cyano-4,5,6,7-tetrahydro-thieno[2,3-c]pyridin-2-yl)-3-phenyl-acrylamide | C(#N)C1=C(SC=2CNCCC21)NC(C=CC2=CC=CC=C2)=O | C17H15N3OS
reactant | N-(3-cyano-4,5,6,7-tetrahydro-thieno[2,3-c]pyridin-2-yl)-3-(2-methoxy-phenyl)-acrylamide | C(#N)C1=C(SC=2CNCCC21)NC(C=CC2=C(C=CC=C2)OC)=O | C18H17N3O2S
reactant | N-(3-cyano-4,5,6,7-tetrahydro-thieno[2,3-c]pyridin-2-yl)-3-(2-chloro-phenyl)-acrylamide | C(#N)C1=C(SC=2CNCCC21)NC(C=CC2=C(C=CC=C2)Cl)=O | C17H14ClN3OS
reactant | N-(3-cyano-4,5,6,7-tetrahydro-thieno[2,3-c]pyridin-2-yl)-3-(pyridin-3-yl)-acrylamide | C(#N)C1=C(SC=2CNCCC21)NC(C=CC=2C=NC=CC2)=O | C16H14N4OS
product | 2-((E)-3-Benzo[1,3]dioxol-4-yl-allanoylamino)-3-cyano-4,7-dihydro-5H-thieno[2,3-c]pyridine-6-carboxylic acid ethyl ester | C(C)OC(=O)N1CC2=C(CC1)C(=C(S2)NC(\C=C\C2=CC=CC=1OCOC12)=O)C#N | C21H19N3O5S
